US06740670B2
To a solution of dipentylamine (258 mg) and diiosopropylethylamine (212 mg) in dimethylformamide (2 ml) was added 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde (350 mg). After stirring at room temperature for 2 weeks, the reaction mixture was partially concentrated under reduced pressure and the residue was purified by flash column chromatography using petroleum ether:diethyl ether (1:3) as eluant. The pure fractions were combined and evaporated under reduced pressure to give 3-[(dipentylamino)methyl]-4-phenylmethoxybenzaldehyde (356 mg) as a gum. 1H NMR (CDCl3) δ9.90 (s, 1H, CHO); 5.15 (s, 2H); 3.70 (s, 2H); 2.50 (m, 4H); 1.55 (m, 4H); 1.30(m, 8H); 0.90 (t, 6H).

reactant | dipentylamine | 258 mg | C(CCCC)NCCCCC | C10H23N
reactant | 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde | 350 mg | CS(=O)(=O)OCC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C16H16O5S
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-[(dipentylamino)methyl]-4-phenylmethoxybenzaldehyde | 356 mg | C(CCCC)N(CCCCC)CC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C25H35NO2
